US08754079B2
4-[4-Fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 7 g 4-[4-fluoro-2-(trans-4-hydroxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid in DMF.

reactant | 4-[4-fluoro-2-(trans-4-hydroxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 7 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2CC[C@H](CC2)O | C20H20FN3O4S
reactant | DMF | CN(C)C=O | C3H7NO
product | 4-[4-Fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2CC[C@H](CC2)O | C20H21FN4O3S
